US08012998B2
To a solution of (3RS,4SR)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidine-3-carboxylic acid (described herein above) (13.39 g, 0.038 mol) in THF (200 mL) at −20° C. were added triethylamine (13.32 mL, 0.096 mol) and pivaloyl chloride (11.76 mL, 0.096 mol) subsequently. Stirring was continued for two hours at the same temperature, and to this mixture were added (S)-4-benzyl-oxazolidin-2-one (8.13 g, 0.046 mol) and lithium chloride (1.94 g, 0.046 mol). The reaction mixture was gradually warmed to room temperature and stirred overnight. The reaction mixture was diluted with ethyl acetate and washed with water two times and saturated sodiumbicarbonate. The separated organic phase was dried on Na2SO4 and concentrated under vacuo. The two diastereoisomeres were separated by column chromatography (SiO2, EtOAc/H, 1:2) to yield (S)-4-benzyl-3-[(3R,4S)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidine-3-carbonyl]-oxazolidin-2-one 9.47 g (49%) as a white solid ES-MS m/e: 509.3 (M+H+) and (S)-4-benzyl-3-[(3S,4R)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidine-3-carbonyl]-oxazolidin-2-one 9.40 g (48%) as a white solid ES-MS m/e: 509.3 (M+H+).

reactant | (3RS,4SR)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidine-3-carboxylic acid | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)C(=O)O | C18H17Cl2NO2
reactant | triethylamine | 0.096 mol, 13.32 mL | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.096 mol, 11.76 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | (S)-4-benzyl-oxazolidin-2-one | 0.046 mol, 8.13 g | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
reactant | lithium chloride | 0.046 mol, 1.94 g | [Cl-].[Li+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-4-benzyl-3-[(3R,4S)-1-benzyl-4-(3,4-dichloro-phenyl)-pyrrolidine-3-carbonyl]-oxazolidin-2-one | 9.47 g, 49% | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(=O)[C@H]1CN(C[C@@H]1C1=CC(=C(C=C1)Cl)Cl)CC1=CC=CC=C1 | C28H26Cl2N2O3
